US08748624B2
STEP D: ethyl 3-(5-(2-(((4-bromo-3-fluorophenyl)amino)methyl)-5-fluorophenyl)picolinamido)propanoate
Solid HATU (227 mg, 0.60 mmol) was added to a THF solution (4.8 mL) of 5-(2-(((4-bromo-3-fluorophenyl)amino)methyl)-5-fluorophenyl)picolinic acid (250 mg, 0.60 mmol), i-Pr2NEt (0.31 mL, 1.79 mmol), and (3-alanine ethyl ester hydrochloride (96 mg, 0.63) and the resulting mixture was stirred at room temperature. After 16 h the resulting mixture was diluted with EtOAc, washed with water and brine, dried (Na2SO4), concentrated and purified via column chromatography to yield the title compound.

reactant | HATU | 0.60 mmol, 227 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | THF | 4.8 mL | C1CCOC1 | C4H8O
reactant | 5-(2-(((4-bromo-3-fluorophenyl)amino)methyl)-5-fluorophenyl)picolinic acid | 0.60 mmol, 250 mg | BrC1=C(C=C(C=C1)NCC1=C(C=C(C=C1)F)C=1C=CC(=NC1)C(=O)O)F | C19H13BrF2N2O2
reactant | i-Pr2NEt | 1.79 mmol, 0.31 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl 3-(5-(2-(((4-bromo-3-fluorophenyl)amino)methyl)-5-fluorophenyl)picolinamido)propanoate | BrC1=C(C=C(C=C1)NCC1=C(C=C(C=C1)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)F | C24H22BrF2N3O3
